US07939524B2
n) N-{3-[(1R,2S,7R,8S)-3-(4-Fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
To a solution of the crude (1S,2R,3S,4R)-3-{(4-fluorobenzyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester in absolute ethanol (3 mL) was added a 21 wt. % solution of sodium ethoxide in ethanol (0.51 mL, 1.37 mmol). After stirring at 60° C. for 2 h, the mixture was diluted with ethyl acetate and acidified with 1.0 M aqueous hydrochloric acid solution to pH 1. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude mixture was purified by flash column chromatography (Teledyne Isco RediSep column; 0 to 100% ethyl acetate in hexanes) to afford the desired product, N-{3-[(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (131.5 mg, 0.235 mmol, 68% over two steps), as an off-white solid. 1H NMR (400 MHz, CD3OD) δ 1.28 (2H, d, J=11.0 Hz), 1.47 (1H, t, J=10.8 Hz), 1.57-1.74 (3H, m), 2.56 (1H, d, J=3.2 Hz), 2.75 (1H, d, J=2.3 Hz), 2.96 (1H, d, J=9.2 Hz), 3.02 (3H, s), 3.58 (1H, d, J=9.2 Hz), 4.42 (1H, d, J=15.5 Hz), 5.03 (1H, d, J=15.7 Hz), 7.04 (2H, t, J=8.5 Hz), 7.31 (2H, dd, J1=7.9 Hz, J2=5.5 Hz), 7.37 (1H, d, J=8.8 Hz), 7.54 (1H, dd, J1=8.3 Hz, J2=2.3 Hz), 7.69 (1H, d, J=2.3 Hz). LC-MS (ESI) calcd for C25H25FN4O6S2 560.12, found 561.4 [M+H+]. ee=98.5% [HPLC-analysis: Chiralpak AS-RH 2.1×150 mm, 5 micron at r.t., Solvent A-Solvent B (see table for gradient), 0.3 mL/min, 312 nm, t1=7.58 min (major), t2=8.95 min].

reactant | (1S,2R,3S,4R)-3-{(4-fluorobenzyl)-[2-(7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetyl]-amino}-bicyclo[2.2.1]heptane-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1[C@H]2CC[C@@H]([C@@H]1N(C(CC1=NS(C3=C(N1)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)CC3=CC=C(C=C3)F)C2 | C27H31FN4O7S2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | hydrochloric acid | 1.0 M | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1.37 mmol, 0.51 mL | C(C)O | C2H6O
product | N-{3-[(1R,2S,7R,8S)-3-(4-fluoro-benzyl)-6-hydroxy-4-oxo-3-aza-tricyclo[6.2.1.02,7]undec-5-en-5-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.235 mmol, 131.5 mg, 68% | FC1=CC=C(CN2[C@H]3[C@@H]4CC[C@H]([C@H]3C(=C(C2=O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)O)C4)C=C1 | C25H25FN4O6S2
